US06458781B1
Preparation of (S)-Azepane-1-carboxylic acid {1-[4,4-bis-(4-fluoro-phenyl)-butylcarbamoyl]-ethyl}-amide
(S)-2-[(Azepane-1-carbonyl)-amino]-propanoic acid (0.300 g, 1.40 mmol) was dissolved in dry DMF (4 mL) under nitrogen atmosphere and cooled to 0° C. in an ice-water bath. To this solution were added, in succession, N,N-diisopropylethylamine (0.732 mL, 4.20 mmol) and solid O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.531 g, 1.40 mmol). The resulting reaction mixture was stirred at that temperature for 35 minutes; solid 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride (0.412 g, 1.40 mmol) was then added. After stirring for, sequentially, 10 minutes at 0° C. and 40 minutes at ambient temperature, reaction mixture was mixed with 60 mL of diethyl ether; the resulting mixture was successively washed with saturated aqueous NaHCO3 solution (2×60 mL), brine (2×60 mL), and was dried over Na2SO4. The solution was concentrated in vacuo affording an viscous oil. The crude product was further purified by flash chromatography (70% EtOAc in hexanes) to afford 0.42 g (65%) of the pure titled compound as a white foam: mp 29-49° C. APCI-MS m/z 458.3 (MH+).

reactant | (S)-2-[(Azepane-1-carbonyl)-amino]-propanoic acid | 1.40 mmol, 0.300 g | N1(CCCCCC1)C(=O)N[C@H](C(=O)O)C | C10H18N2O3
reactant | N,N-diisopropylethylamine | 4.20 mmol, 0.732 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.40 mmol, 0.531 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride | 1.40 mmol, 0.412 g | Cl.FC1=CC=C(C=C1)C(CCCN)C1=CC=C(C=C1)F
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
product | (S)-Azepane-1-carboxylic acid {1-[4,4-bis-(4-fluoro-phenyl)-butylcarbamoyl]-ethyl}-amide | 0.42 g, 65% | FC1=CC=C(C=C1)C(CCCNC(=O)[C@H](C)NC(=O)N1CCCCCC1)C1=CC=C(C=C1)F | C26H33F2N3O2
